US07696193B2
Tetrahydro-pyran-4-carboxylic acid [6-(3-cyclobutyl-2,3,4,5-tetrahydro-1 H-benzo[d]azepin-7-yloxy)-pyridin-3-yl]-amide (E241)
Tetrahydro-pyran-4-carboxylic acid (252 mg, 1.94 mmol), 1-hydroxy benzotriazole hydrate (262 mg, 1.94 mmol) and N-cyclohexylcarbodiimide N′-methyl polystyrene (1.7 mmol/g, 2.3 g, 3.88 mmol) were stirred at room temperature in dichloromethane (10 ml) for 15 minutes. 6-[(3-Cyclobutyl-2,3,4,5-tetrahydro-1H-3-benzazepin-7-yl)oxy]-3-pyridinamine (E236) (300 mg, 0.97 mmol) was added and stirring continued for 16 hours. The reaction mixture was applied to a SCX ion exchange cartridge (Varian bond-elute, 5 g) and washed with methanol and then a mixture of 0.880 ammonia/methanol. The combined basic fractions were concentrated in vacuo and the resulting residue was purified by column chromatography eluting with a mixture of 0.880 ammonia:methanol:dichloromethane (0.5:4.5:95) to afford the title product (E241); MS (ES+) m/e 422 [M+H]+.

reactant | Tetrahydro-pyran-4-carboxylic acid | 1.94 mmol, 252 mg | O1CCC(CC1)C(=O)O | C6H10O3
reactant | 1-hydroxy benzotriazole hydrate | 1.94 mmol, 262 mg | O.ON1N=NC2=C1C=CC=C2
reactant | 6-[(3-Cyclobutyl-2,3,4,5-tetrahydro-1H-3-benzazepin-7-yl)oxy]-3-pyridinamine | 0.97 mmol, 300 mg | C1(CCC1)N1CCC2=C(CC1)C=CC(=C2)OC2=CC=C(C=N2)N | C19H23N3O
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | Tetrahydro-pyran-4-carboxylic acid [6-(3-cyclobutyl-2,3,4,5-tetrahydro-1 H-benzo[d]azepin-7-yloxy)-pyridin-3-yl]-amide | C1(CCC1)N1CCC2=C(CC1)C=C(C=C2)OC2=CC=C(C=N2)NC(=O)C2CCOCC2 | C25H31N3O3
